US07507734B2
b) 4-(5-Methyl-4H-[1,2,4]triazol-3-yl)-6-pyridin-4-yl-2H-pyridazin-3-one
A mixture of 100 mg of 3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4-carboxylic acid hydrazide, 130 mg thioacetamide, 87 mg triethylamine, 1 ml of pyridine and 5 ml of butanol is refluxed for 15 hours. After cooling and stirring at room temperature, a solid precipitated is collected by filtration, washed with cold isopropanol and dried in vacuo.

reactant | 3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazine-4-carboxylic acid hydrazide | 100 mg | O=C1NN=C(C=C1C(=O)NN)C1=CC=NC=C1 | C10H9N5O2
reactant | thioacetamide | 130 mg | C(C)(=S)N | C2H5NS
reactant | triethylamine | 87 mg | C(C)N(CC)CC | C6H15N
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | butanol | 5 ml | C(CCC)O | C4H10O
product | 4-(5-Methyl-4H-[1,2,4]triazol-3-yl)-6-pyridin-4-yl-2H-pyridazin-3-one | CC=1NC(=NN1)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C12H10N6O
